US04788130
11 Grams of 2,3-dihydro-2,4-dimethyl-3-phenyl-4-methyl-7-crotyloxy-1H-inden-1-one was added to 55 ml of tetrahydronaphthalene and the mixture was heated and refluxed for 6 hours with stirring condition. After the reaction was completed, the reaction mixture was concentrated by removal of the solvent, and the residue thus obtained was purified by means of a silica gel column chromatography. 11.2 Grams of 2,3-dihydro-2,4-dimethyl-3-phenyl-6-(1-buten-3-yl)-7-hydroxy-1H-inden-1-one was obtained as cis-trans mixture. Yellow oily substance.

reactant | 2,3-dihydro-2,4-dimethyl-3-phenyl-4-methyl-7-crotyloxy-1H-inden-1-one | CC1C(C2=C(C=CC(C2C1C1=CC=CC=C1)(C)C)OCC=CC)=O | C22H26O2
reactant | tetrahydronaphthalene | 55 ml | C1CCCC2=CC=CC=C12 | C10H12
product | 2,3-dihydro-2,4-dimethyl-3-phenyl-6-(1-buten-3-yl)-7-hydroxy-1H-inden-1-one | CC1C(C2=C(C(=CC(=C2C1C1=CC=CC=C1)C)C(C=C)C)O)=O | C21H22O2
